* Schematics Netlist *



C_C1         $N_0001 $N_0002  47u  
R_R18         $N_0004 $N_0003  1.2k  
D_D1         $N_0005 $N_0003 D1N4002 
C_C4         $N_0004 0  47u  
Q_Q17         $N_0007 $N_0006 $N_0008 BC546B 
R_R26         $N_0009 $N_0008  680  
R_R8         $N_0008 $N_0010  820  
Q_Q22         $N_0005 $N_0011 $N_0002 BC546B 
Q_Q25         $N_0009 $N_0012 $N_0002 BC556B 
R_R5         $N_0005 $N_0007  680  
C_C7         0 $N_0013  2200u  
C_C5         $N_0003 0  2200u  
X_D4         $N_0014 $N_0003 D1N6392 
X_D3         $N_0013 $N_0015 D1N6392 
C_C2         $N_0016 0  10u  
Q_Q28         $N_0008 $N_0017 $N_0013 BC546B 
R_R29         $N_0002 $N_0011  0.1  
R_R30         $N_0012 $N_0002  0.1  
R_R9         $N_0002 $N_0018  47k  
R_R1         $N_0007 $N_0001  3k  
R_R21         $N_0006 $N_0019  500  
R_R22         $N_0010 $N_0006  500  
V_V1         $N_0014 0 30
V_V2         0 $N_0015 30
R_R13         $N_0017 $N_0020  4.7k  
R_R38         0 $N_0002  3  
R_R15         $N_0013 $N_0020  680  
R_R17         $N_0022 $N_0021  4.7k  
C_C14         0 $N_0021  200pf  
Q_Q19         $N_0020 $N_0023 $N_0024 BC556B 
R_R39         $N_0021 $N_0023  4.7k  
R_R10         $N_0016 $N_0018  680  
Q_Q18         $N_0025 $N_0018 $N_0024 BC556B 
R_R40         $N_0013 $N_0025  680  
R_R4         $N_0007 $N_0019  15k  
C_C8         $N_0026 0  680  
V_V10         $N_0022 0  AC 100mV
+SIN 0 100mV 5K 0 0 0
M_M36         $N_0012 $N_0009 $N_0013 $N_0013 IRF9540
M_M37         $N_0003 $N_0005 $N_0011 $N_0011 IRF540
R_R14         $N_0024 $N_0004  15k  
R_R19         $N_0026 $N_0002  10  
R_R2         $N_0001 $N_0003  3k  
